Test for default device params being used by .sens, which is the subject of bug 669

Vtest 1 0 5.0
Rtest 1 0 1.0

.DC Vtest 1 1 1

* Prior to fixing bug 669, this param specification didn't work.
.sens objfunc={I(Vtest)} param=Rtest

.print sens v(1)
.options SENSITIVITY direct=0 adjoint=1  

.options device debuglevel=-100
.options timeint debuglevel=-100
